US08202511B2
N-(Hydroxyethyl)-Amino-2,3-propanediol
The commercially available glycidol (0.17 mol, 11 ml) was added dropwise to stirred ethanolamine (1 eq, 1.4 mol, 84.3 ml) at 0° C. Once addition was complete the reaction was allowed to warm up to room temperature, while stirring overnight. The product was then distilled (Ethanolamine first distilled at 60° C. at 1 Torr, and the desired product at 170° C. at 1 Torr). The product was obtained a clear oil that cooled to a clear viscous syrup (0.122 mol, yield=72%).

reactant | glycidol | 0.17 mol, 11 ml | C1C(O1)CO | C3H6O2
reactant | ethanolamine | 1.4 mol, 84.3 ml, 1 eq | C(O)CN | C2H7NO
product | N-(Hydroxyethyl)-Amino-2,3-propanediol | 0.122 mol, yield=72% | OCCNCC(CO)O | C5H13NO3
